US07495007B2
Preparation of intermediate E/Z-6-bromo-3-(3-chloro-benzylidene)-1,3-dihydro-indol-2-one
To the mixture of 6-bromooxindole (16.2 g, 92 mmol) (Combi-block) and 3-chloro-benzaldehyde (12.9 g, 92 mmol) in methanol (109 mL) was added pyrrolidine (6.55 g, 92 mmol) dropwise. The mixture was then heated at 65° C. for 3 h. After cooled to 4° C., the mixture was filtered and resulting precipitate was collected, dried to give a mixture of E/Z-6-chloro-3-(3-chloro-benzylidene)-1,3-dihydro-indol-2-one as a bright yellow solid (Yield 16.2 g, 63%).

reactant | 6-bromooxindole | 92 mmol, 16.2 g | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
reactant | 3-chloro-benzaldehyde | 92 mmol, 12.9 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | pyrrolidine | 92 mmol, 6.55 g | N1CCCC1 | C4H9N
reactant | Z-6-chloro-3-(3-chloro-benzylidene)-1,3-dihydro-indol-2-one | Yield 16.2 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=CC(=CC=C1)Cl | C15H9Cl2NO
solvent | methanol | 109 mL | CO | CH4O
product | Z-6-bromo-3-(3-chloro-benzylidene)-1,3-dihydro-indol-2-one | BrC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=CC(=CC=C1)Cl | C15H9BrClNO
